* ADS gain/operating-point study: original finite circuit
* MOS instance terminal order is drain gate source body; one unit each.
Vdd vdd 0 DC 1 AC 0
Vin in 0 DC 0.45000000000000001 AC 1 SIN(0.45000000000000001 0.02 10000)
Rsrc in gate 1000
Rload out 0 100000
Cload capnode 0 9.9999999999999998e-13
Idist 0 out DC 0 AC 0
Rs source 0 171.81801356494375
Vn0d out n0d 0
Vn0g gate n0g 0
Vn0s source n0s 0
Vn0b 0 n0b 0
xn0 n0d n0g n0s n0b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Vn1d out n1d 0
Vn1g gate n1g 0
Vn1s source n1s 0
Vn1b 0 n1b 0
xn1 n1d n1g n1s n1b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Vn2d out n2d 0
Vn2g gate n2g 0
Vn2s source n2s 0
Vn2b 0 n2b 0
xn2 n2d n2g n2s n2b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Vn3d out n3d 0
Vn3g gate n3g 0
Vn3s source n3s 0
Vn3b 0 n3b 0
xn3 n3d n3g n3s n3b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Vn4d out n4d 0
Vn4g gate n4g 0
Vn4s source n4s 0
Vn4b 0 n4b 0
xn4 n4d n4g n4s n4b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Vn5d out n5d 0
Vn5g gate n5g 0
Vn5s source n5s 0
Vn5b 0 n5b 0
xn5 n5d n5g n5s n5b apm045_vtg_nmos w=3.8674887684728406e-06 l=3.9999999999999998e-07
Rd vdd out 6667.1917188465968
Vcap out capnode 0
